US05492925
Preparation of 2-Bromo-1-(5-chloro-2-thienyl)ethanone
A solution of bromine (18.90 g, 118 mmol) in chloroform is added to a solution of 2-acetyl-5-chlorothiophene (19.00 g, 118 mmol) in chloroform at 40°-45° C. The reaction mixture is stirred at room temperature for two hours and diluted with water. The organic layer is separated, dried over MgSO4 and concentrated in vacuo to give a solid. The solid is slurried in an ether/hexane solution, filtered and dried to give the title product as a solid (12.20 g, mp 68°-70° C.).

reactant | bromine | 118 mmol, 18.90 g | BrBr | Br2
reactant | 2-acetyl-5-chlorothiophene | 118 mmol, 19.00 g | C(C)(=O)C=1SC(=CC1)Cl | C6H5ClOS
reactant | ether hexane | CCOCC.CCCCCC
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 2-Bromo-1-(5-chloro-2-thienyl)ethanone | 12.20 g | BrCC(=O)C=1SC(=CC1)Cl | C6H4BrClOS
